Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with history of DM, HTN and HLD, who presented 
to ___ with complaint of new headache with N/V, 
transferred to ___ upon finding of a sellar mass on head 
imaging. He developed a R sided headache with photophobia at 
10pm on night prior to presentation. He rarely gets headaches, 
and this was the most severe one that he has experienced. Came 
on suddenly as he was going to bed at ___ severity, increased 
to ___ and kept him awake all night. In the morning, the 
headache became holocephalic and was associated with nausea and 
vomiting. He presented to the ___ where his VS 
were 97.6, 186/100, 60, 22, 99%RA. Labs were notable for normal 
chemistry, WBC 7.5, H/H 13.9/39.5. CT head found 1.2 AP x 2.1 
transverse sellar mass and he was transferred for neurosurgical 
evaluation. 

Upon transfer to ___ ED, vital signs were: 97 52 166/77 16 98% 
RA. 
Patient was given Morphine, dilaudid and hydrocort 100mg. 
Evaluated by neurosurgery who recommended admission to medicine 
with MRI and endocrine/ophtho consults. 

On arrival to the floor, VS are 98, 179/84, 65, 20, 99% RA. He 
reports the pain subsided somewhat in the ED, but is coming 
back. No current nausea. Has ongoing photophobia. Denies any 
diplopia, vision loss, scotomas or change in olfactory function. 
Has intention tremor at baseline ___ year now, but has felt more 
unstable in the past day. Reports that he started 3 new 
medications through his PCP ___, does not recall what they 
are. Otherwise, no sick contacts, no recent illnesses. Travel to 
___ in ___, no camping or unusual exposures he can 
recall. No fevers/chills, abdominal pain, change in bowel 
function. No CP or SOB. 
 
Past Medical History:
DM
HTN
HLD
Chronic back pain

 
Social History:
___
Family History:
Father and brother MI, lung cancer in uncle

 
Physical ___ exam:
Vitals- 98, 179/84, 65, 20, 99% RA
General: alert, interactive. Photo-averse. Appears uncomfortable
HEENT: sclera anicteric, conjunctiva clear. PERRLA. EOMI without 
nystagmus. 
Neck: supple, no meningus. No LAD
CV: RR, no murmurs
Lungs: clear bilaterally
Abdomen: soft, obese, non-tender, non-distended. Bowel sounds 
present
GU: no foley
Ext:  warm, well perfused. 2+ ___ pulses
Neuro: Awake, oriented x3. Fluid speech, no dysarthria or word 
finding difficulties. 

Cranial Nerves:
I: Not tested
II: PERRLA, visual fields intact 
III, IV, VI: Extraocular movements intact without nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

___ strength ___ UE and ___: mild dismetria on finger-nose, heel-shin

EXAM ON DISCHARGE:
ALERT AND ORIENTED X 3
DOUBLE VISION
MOTOR INTACT THROUGHOUT
 
Pertinent Results:
___ CTA head/neck
IMPRESSION: 
1.  No acute intracranial hemorrhage.  No evidence of an 
intracranial 
aneurysm. 
2.  Questionable focal cortical hypodensity in the left insula, 
versus volume averaging artifact.  If the patient has neurologic 
symptoms concerning for an acute infarction, then MRI should be 
obtained for further evaluation.  This was discussed over the 
telephone by Dr. ___ with Dr. ___ at 2:37 p.m. on ___, 10 minutes after discovery of this finding. 
3.  Mild atherosclerosis of the proximal internal carotid 
arteries and of the left carotid siphon without flow-limiting 
stenosis.  Atherosclerosis with mild narrowing of the 
supraclinoid right internal carotid artery distal to ophthalmic 
artery origin.  Mild atherosclerosis of the A1 segment of the 
right anterior cerebral artery and M1 segment of the right 
middle cerebral artery. 
4.  Abnormal soft tissue density within the sella, suggesting 
pituitary 
enlargement or mass.  Recommend further evaluation by dedicated 
pituitary MRI. 
5.  Enlargement of the main pulmonary artery, indicating 
pulmonary 
hypertension.  Prominent upper mediastinal lymph nodes, 
measuring up to 10 mm. 
6.  Multilevel cervical spinal stenosis due to degenerative 
disease, which may be better assessed by a dedicated cervical 
spine MRI, if clinically warranted. 

___  MRI pituitary
FINDINGS:  There is a right-sided hypoenhancing sellar 
suprasellar mass 
measuring 1.5 x 1.7 cm with mass effect on the optic chiasm on 
the right.  No definite extension into the cavernous sinus is 
seen.  There is displacement of the cavernous ICA, but no 
encasement. 
IMPRESSION:  Findings suggestive of a pituitary macroadenoma in 
the right 
aspect of the sella as described. 

 
Brief Hospital Course:
___ year old man with history of DM, HTN, HLD presenting with an 
acute severe headache and finding of sellar mass.

#Sellar mass: Found on CT upon workup for new headache, with MRI 
confirmation of macroadenoma compressing optic chiasm. Uncertain 
of etiology and uncertain if related to headache given acute 
presentation for a usually slow growing macroadenoma without e/o 
bleed. Non-focal exam except mild dysmetria on admission. On 
hospital day 2, he developed diplopia and findings of new CNIII 
and VI palsies. Due to evolving neurologic exam, the patient was 
transferred to the neurosurgical service. 
- Endocrine hormonal workup: PRL, TSH/T4/T3 negative. IGF1 
pending. Ordered stat cortisol prior to beginning hydrocort. 
Ordered for am cortisol, testosterone, LH/FSH. 
- IV ketorolac and APAP prn. Reserve narcotics for breakthrough, 
per neuro

#DM: 
- hold home metformin
- QACHS CBGs and Humalog SSI

#HTN: 
- Home HCTZ, Propanolol and lisinopril

#HLD: 
- home statin

# Code: Full code, confirmed
# Emergency Contact: Sister-in-law ___: ___
Brother ___ ___

On ___, Mr. ___ was transferred to the Neurosurgery service 
for further management.  The patient underwent full visual field 
testing with opthalmology.  Findings were consistent with 
incomplete third nerve palsy in the right eye, likely due to 
cavernous sinus involvement with the pituitary adenoma.  

Over the next two days, Mr. ___ remained neurologically 
stable.  Discussions with Neurosurgery and ENT were held to plan 
for operative treatment of Mr. ___ sellar lesion.  

He was discharged home with directions to call our office to 
confrim the date of his surgery. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Atorvastatin 40 mg PO DAILY 
7. GlipiZIDE 5 mg PO DAILY 
8. propranolol 60 mg oral daily 
9. Terazosin 1 mg PO HS 
10. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. GlipiZIDE 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
5. Atorvastatin 40 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Propranolol 60 mg ORAL DAILY 
9. Terazosin 1 mg PO HS 
10. Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diplopia
Sellar lesion
CN III, VI palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ on ___ after you presented with 
headaches and sensitivity to light (photophobia).  On further 
imaging, you were found to have a sellar (pituitary) lesion.  

You are now being discharged with the following instructions:

Transphenoidal Excision of Tumor

Dr. ___

 

 

¨     Take your pain medicine as prescribed.

¨     Exercise should be limited to walking; no lifting, 
straining, or excessive bending.

¨     Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.

¨     Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 

¨     Clearance to drive and return to work will be addressed at 
your post-operative office visit.

 
 
Followup Instructions:
___